US04547508
1-(2-Methylphenyl)-3-(4-pyridyl)isoquinoline
37 g of N-[2-phenyl-1-(4-pyridyl)ethyl]-2-methylbenzamide in 800 ml of tetralin are heated with 240 g of phosphorus pentoxide and 60 g of Celite filtration aid, to improve distribution, at 180°-200° C. for 5 hours. After cooling to 120°-140° C., a further 120 g of phosphorus pentoxide are added and the mixture is heated at 230° C. (reflux) for 16 hours. After cooling, the tetralin is decanted off and the residue is washed several times with toluene. The washed residue is suspended in toluene and water is slowly added with stirring. The aqueous phase is separated off and made highly alkaline with potassium hydroxide. The product is extracted with toluene and, after distilling out the toluene, is chromatographed on silica gel using chloroform/ethyl acetate (8:2). 25 g of oily base are isolated, which provides a hydrochloride of melting point 255°-259° C. with ethanolic hydrochloric acid.

reactant | N-[2-phenyl-1-(4-pyridyl)ethyl]-2-methylbenzamide | 37 g | C1(=CC=CC=C1)CC(C1=CC=NC=C1)NC(C1=C(C=CC=C1)C)=O | C21H20N2O
reactant | phosphorus pentoxide | 240 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphorus pentoxide | 120 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | tetralin | 800 ml | C1CCCC2=CC=CC=C12 | C10H12
product | 1-(2-Methylphenyl)-3-(4-pyridyl)isoquinoline | 25 g | CC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C1=CC=NC=C1 | C21H16N2
